US07091214B2
A solution of 2-ethoxymethyl-1-(piperidin-2-ylmethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine trihydrochloride (0.60 g, 1.1 mmol) and triethylamine (0.79 mL, 5.7 mmol) in chloroform (50 mL) was cooled to 4° C. Methanesulfonyl chloride (0.12 mL, 1.5 mmol) was added, and the reaction was allowed to warm to ambient temperature and stirred overnight. Additional methanesulfonyl chloride (2.5 equivalents) was added at 4° C. over the course of several days. The work-up procedure described in Examples 178 to 181 was carried out. The crude product was purified by HPFC (eluting with chloroform:CMA in a gradient from about 100:0 to 70:30) followed by recrystallization from acetonitrile to provide 0.19 g of 2-ethoxymethyl-1-{[1-(methanesulfonyl)piperidin-2-yl]methyl}-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 152–154° C.

reactant | 2-ethoxymethyl-1-(piperidin-2-ylmethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine trihydrochloride | 1.1 mmol, 0.60 g | Cl.Cl.Cl.C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=2C=NC=CC2)N)N1)CC1NCCCC1
reactant | triethylamine | 5.7 mmol, 0.79 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.5 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 2.5 equivalents | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxymethyl-1-{[1-(methanesulfonyl)piperidin-2-yl]methyl}-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.19 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=2C=NC=CC2)N)N1)CC1N(CCCC1)S(=O)(=O)C | C25H30N6O3S
